US08110575B2
5-(6-(3-methylindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
0.15 g (0.37 mmol) 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride, 61 mg (0.37 mmol) 3-methyl-2,3-di-hydro-1H-indole, 150 μL (0.87 mmol) DIPEA and 0.13 g (0.41 mmol) TBTU in 1.8 mL DMF were stirred for 1 h at RT. The purification was carried out by preparative HPLC-MS. The product-containing fractions were combined and lyophilised.

reactant | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride | 0.37 mmol, 0.15 g | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O
reactant | 3-methyl-2,3-di-hydro-1H-indole | 0.37 mmol, 61 mg | CC1CNC2=CC=CC=C12 | C9H11N
reactant | DIPEA | 0.87 mmol, 150 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.41 mmol, 0.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 5-(6-(3-methylindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | CC1CN(C2=CC=CC=C12)C(=O)C1=CC(=NC=N1)NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C29H24N6O2
